US07186729B2
Step 5: 1-(4-Chloro-phenyl)-4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperazine-2-carboxylic acid methyl ester
To a solution of 1-(4-chloro-phenyl)-piperazine-2-carboxylic acid methyl ester (0.14 g, 0.53 mmol) in acetonitrile:water (4:1) was added potassium carbonate (0.083 g, 0.6 mmol) and (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (150 mg, 0.4 mmol) and the resulting mixture was stirred at 50° C. for 5 hours. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate, and dried over sodium sulfate. The crude product was purified by flash chromatography on silica using gradient elution from ethyl acetate (100%) to ethyl acetate/methanol (5%). 1H-NMR (CDCl3) δ: 1.05 (6H, s), 2.20–2.70 (8H, 2×m), 3.00 (1H, m), 3.10–3.40 (3H, 2×m), 3.55 (3H, s), 4.50 (1H, br,s), 5.30 (2H, br,s), 6.20 (1H, t), 6.70–6.90 (3H, 2×d), 7.10–7.35 (4H, m), 7.50 (2H, d), 8.50 (1H, dd). ESI-MS m/z: 548 (M+1), UV retention time: 1.62 min.

reactant | 1-(4-chloro-phenyl)-piperazine-2-carboxylic acid methyl ester | 0.53 mmol, 0.14 g | COC(=O)C1N(CCNC1)C1=CC=C(C=C1)Cl | C12H15ClN2O2
reactant | potassium carbonate | 0.6 mmol, 0.083 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.4 mmol, 150 mg | BrCC\C=C/1\C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | C(C)#N.O
product | 1-(4-Chloro-phenyl)-4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperazine-2-carboxylic acid methyl ester | COC(=O)C1N(CCN(C1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)C2=CC=C(C=C2)Cl | C31H34ClN3O4
